US07727988B2
5-(4-Methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine (Prep10)
2,4-Dimethoxypyrimidine-5-boronic acid (1.3 g, 7.23 mmol) was dissolved in degassed n-PrOH (20 ml) and then 4-methyl-3-bromo-pyridine (830 g, 4.82 mmol), Na2CO3 (1.02 g, 9.64 mmol), PPh3 (126 mg, 0.48 mmol) and Pd(OAc)2 (40 mg) were added. The suspension was stirred at reflux for 3 hours. The solvent was evaporated under vacuum and the crude was partitioned between water and DCM. The organic phase was dried (Na2SO4) and evaporated to give the title compound that was used without further purification in the next step (quantitative yield).

reactant | 2,4-Dimethoxypyrimidine-5-boronic acid | 7.23 mmol, 1.3 g | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 4-methyl-3-bromo-pyridine | 4.82 mmol, 830 g | CC1=C(C=NC=C1)Br | C6H6BrN
reactant | Na2CO3 | 9.64 mmol, 1.02 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 0.48 mmol, 126 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 20 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 40 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(4-Methyl-pyridin-3-yl)-2,4-dimethoxy-pyrimidine | quantitative yield | CC1=C(C=NC=C1)C=1C(=NC(=NC1)OC)OC | C12H13N3O2
